US04966985
synthesis of (1S,2R)-2-carboxymethylamino-1,2-diphenylethanol
1.55 g of (1S,2R)-2-carboxymethylamino-1,2-diphenylethanol mono sodium salt was dissolved in 40 ml of water and 1.2 M hydrochloric acid was added to adjust the pH at 8. The precipitated crystals were washed 2 times with water and 2 times with methanol. The washed crystals were dried under reduced pressure (about 2 mm Hg) at 70 ° C. for 12 h. Mp 250-251.5 ° C. (decomp.); [α]D21 -3.4° (c 1.00, 1H NaOH) IR (KBr): 3320, 3050, 2890, 1625, 1570, 1390, 760, 710, 700 cm-1.

reactant | (1S,2R)-2-carboxymethylamino-1,2-diphenylethanol mono sodium salt | 1.55 g | [Na].C(=O)(O)CN[C@@H]([C@@H](O)C1=CC=CC=C1)C1=CC=CC=C1
reactant | hydrochloric acid | 1.2 M | Cl | ClH
solvent | water | 40 ml | O | H2O
product | (1S,2R)-2-carboxymethylamino-1,2-diphenylethanol | C(=O)(O)CN[C@@H]([C@@H](O)C1=CC=CC=C1)C1=CC=CC=C1 | C16H17NO3
